US04732998
Tetraethyl (1-n-butoxypentylidene)-bisphosphonate
Tetraethyl (n-butoxymethylene)-bisphosphonate (1.2 g) was added to a stirred solution of potassium tert-butoxide (0.37 g) in tert-butanol (5 ml). After 30 minutes at room temperature, butyl bromide (0.36 ml) was added, and the mixture was refluxed for 8 hours. After cooling, the mixture was diluted with ethyl acetate and washed with water. The organic phase was dried and evaporated to give an oil which was purified by chromatography to yield the title compound.

reactant | Tetraethyl (n-butoxymethylene)-bisphosphonate | 1.2 g | C(CCC)OC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C13H30O7P2
reactant | potassium tert-butoxide | 0.37 g | CC(C)([O-])C.[K+]
reactant | butyl bromide | 0.36 ml | C(CCC)Br | C4H9Br
solvent | tert-butanol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tetraethyl (1-n-butoxypentylidene)-bisphosphonate | C(CCC)OC(CCCC)(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C17H38O7P2
